US09029405B2
Step 2: tert-butyl 2-(1-(4-cyanophenyl)-2-hydroxyethylamino)acetate
A solution of 4-(2-hydroxyacetoyl)benzonitrile (0.730 g; 4.53 mmol) and glycine tert-butyl ester (0.896 mg; 6.80 mmol) in DCM/MeOH (1:1; 12 mL) was stirred at ambient temperature for 1 hour. Sodium cyanoborohydride (0.342 g; 6.80 mmol) and acetic acid (0.389 mL; 6.80 mmol) were added to the reaction mixture and the mixture stirred for 18 hours. The reaction mixture was diluted with DCM and water and then poured through a hydrophobic frit. The filtrate was evaporated in vacuo. The residue was purified by flash chromatography eluting with iso-hexane/EtOAc (3:2) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.65 (d, J=8.4 Hz, 2H), 7.49 (d, J=8.4 Hz, 2H), 3.88-3.85 (m, 1H), 3.76-3.72 (m, 1H), 3.59-3.55 (m, 1H), 3.32 (d, J=17.6 Hz, 1H), 3.15 (d, J=17.6 Hz, 1H), 1.49 (s, 9H).

reactant | 4-(2-hydroxyacetoyl)benzonitrile | 4.53 mmol, 0.730 g | OCC(=O)C1=CC=C(C#N)C=C1 | C9H7NO2
reactant | glycine tert-butyl ester | 6.80 mmol, 0.896 mg | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | Sodium cyanoborohydride | 6.80 mmol, 0.342 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 6.80 mmol, 0.389 mL | C(C)(=O)O | C2H4O2
solvent | DCM MeOH | 12 mL | C(Cl)Cl.CO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 2-(1-(4-cyanophenyl)-2-hydroxyethylamino)acetate | C(#N)C1=CC=C(C=C1)C(CO)NCC(=O)OC(C)(C)C | C15H20N2O3
